US04470976
4-Aminophenyl 4-O-(β-D-glucopyranosyl)-1-thio-β-D-glucopyranoside
A 3.0 g portion of 4-aminophenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-1-thio-β-D-glucopyranoside was reacted as described in Example 29, giving 1.49 g of the desired intermediate as a solid, [α]D26 =-47°±4° (0.34%, water).

reactant | 4-aminophenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | C(C)(=O)O[C@H]1[C@H](SC2=CC=C(C=C2)N)O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O | C32H41NO17S
solvent | water | O | H2O
product | 4-Aminophenyl 4-O-(β-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | 1.49 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@H](SC2=CC=C(C=C2)N)O[C@@H]1CO)O)O | C18H27NO10S
